### PR TITLE
Bump lean-toolchain to v4.25.2

### PR DESCRIPTION
**Pull request by joehendrix**
By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

**Review by joscoh — APPROVED** [review]

File: Strata/DL/Util/StringGen.lean [hunk 1]
```diff
@@ -132,21 +120,14 @@ theorem Nat_digitChar_index: x.digitChar =
   repeat (cases x; simp; rename_i x)
   any_goals simp
 
-theorem neq_elem_of_neq_index_of_nodup (H: List.Nodup a) (Hl1: x < a.length) (Hl2: y < a.length) (Hneq: ¬ x = y): ¬ a[x]'Hl1 = a[y]'Hl2 := by
+theorem nodup_implies_injective (H: List.Nodup a) (Hl1: x < a.length) (Hl2: y < a.length) (eq : a[x]'Hl1 = a[y]'Hl2) : x = y := by
```
Comment (joehendrix) [inline Strata/DL/Util/StringGen.lean:123]: This is the contrapositive of the original theorem.  I found it easier to work with.

File: Strata/DL/Util/StringGen.lean [hunk 2]
```diff
@@ -250,64 +227,59 @@ theorem Nat_eq_of_toDigitsCore_eq : x > n → y > m
...
 theorem Nat_eq_of_StringGen_suffix {x y: Nat}: ("_" ++ toString x).IsSuffix (s ++ "_" ++ toString y) → x = y := by
   intro Hsuf
+  simp only [String.IsSuffix, String.data_append] at Hsuf
+  change ['_'] ++ (toString x).data <:+ s.data ++ ['_'] ++ (toString y).data at Hsuf
   apply Nat_eq_of_toString_eq
-  simp only [String.IsSuffix] at Hsuf
   by_cases Hc: (toString x).length < (toString y).length
-  have Hsuf':  (toString y).data  <:+ ((s ++ "_").append (toString y)).data := by
-    simp only [String.append, List.append_assoc, List.cons_append, List.nil_append, toString]
+  have Hsuf':  (toString y).data  <:+ s.data ++ ['_'] ++ (toString y).data := by
```
Comment (joehendrix) [inline Strata/DL/Util/StringGen.lean:239]: This file I just changed the lemmas to use List append operator instead of directly calling `String.append` followed by `String.data` as this seemed more consistent.

File: Strata/DL/Util/StringGen.lean [hunk 3]
```diff
@@ -334,7 +306,7 @@ theorem StringGenState.WFMono :
...
   intro c s H
   cases H
-  rename_i H
-  simp [H.right, H.left, String.IsSuffix, String.append]
-  apply List.suffix_append
-  apply Hwf.right.right.right <;> assumption
+  · rename_i H
+    simp only [H.right, H.left, String.IsSuffix, String.append_assoc, String.data_append]
+    apply List.suffix_append
+  · apply Hwf.right.right.right <;> assumption
```
Comment (joehendrix) [inline Strata/DL/Util/StringGen.lean:312]: These use more structure so when tactics handle subgoals is more clear.

**Review by MikaelMayer — COMMENTED** [review]
Since you are migrating to 4.25.2, can you also please get rid of "partial" in LExprEval?

```
TODO: Once we are on Lean 4.25 or more, we ought to be able to remove the "partial" because this fix should have been merged https://github.com/leanprover/lean4/issues/10353
-/
partial def eval (n : Nat) (σ : LState TBase) (e : (LExpr TBase.mono))
    : LExpr TBase.mono :=
```

**Review by MikaelMayer — APPROVED** [review]

**Review by aqjune-aws — APPROVED** [review]
